US05589478
To a mixture of N-[6-{2-(5-acetylpyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide (756 mg), tetrahydrofuran (10 ml) and isopropyl alcohol (10 ml) is added with stirring sodium borohydride (48 mg) under ice-cooling, and the mixture is stirred for 40 minutes under ice-cooling. To the reaction solution is further added sodium borohydride (14 mg), and the mixture is stirred for 30 minutes. The mixture is diluted with water, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and concentrated to dryness under reduced pressure. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol=40:1~20:1), and recrystallized from ethyl acetate/n-hexane to give 4-tert-butyl-N-[6-{2-(5-(1 -hydroxyethyl)pyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide (571 mg) as crystals.

reactant | N-[6-{2-(5-acetylpyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]-4-tert-butylbenzenesulfonamide | 756 mg | C(C)(=O)C=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)OC1=CC(=CC=C1)OC | C29H31N5O7S
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
reactant | sodium borohydride | 48 mg | [BH4-].[Na+]
reactant | sodium borohydride | 14 mg | [BH4-].[Na+]
solvent | water | O | H2O
product | 4-tert-butyl-N-[6-{2-(5-(1 -hydroxyethyl)pyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide | 571 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCOC1=NC=C(C=N1)C(C)O | C29H33N5O7S
